US07208493B2
6-Bromo-3-(3-hydroxy-propionyl)-3H-quinazolin-4-one
To a suspension of NaH (60% in mineral oil, 199 mg) in 20 ml of N,N-dimethylacetamide was added 6-bromo-3H-quinazolin-4-one(0.9335 mg, 4.148 mmol). The mixture was stirred at room temperature for 40 mins resulting clear red solution. Acroyl chloride (471.8 ul, 5.8072 mmol) was added. The solution was heated at 70° C. for 8 hrs, cooled to room temperature, and poured into 30 ml of ice water. Methylene chloride added and product was in the water phase. The water solvent was evaporated under vacuum. The resulted residue was purified by preparative HPLC. 1.1 g product was obtained. Yield: 74.7%; 1H NMR (500 MHz, DMSO-d6): δ 2.73412–2.76135(t, J=6.805 Hz, 2H), 4.14197–4.16922(t, J=6.815 Hz, 2H), 7.62305–7.64046(d, J=8.705 Hz, 1H), 7.96596–7.98797(dd, J1=8.635 Hz, J2=2.38 Hz, 1H), 8.2287–8.2335(d, J=2.4 Hz, 1H), 8.41991(s, 1H); ESI-MS: m/z 297, 299 (M++1)

reactant | NaH | 199 mg | [H-].[Na+]
reactant | 6-bromo-3H-quinazolin-4-one | 4.148 mmol, 0.9335 mg | BrC=1C=C2C(NC=NC2=CC1)=O | C8H5BrN2O
reactant | Methylene chloride | C(Cl)Cl | CH2Cl2
reactant | water | O | H2O
solvent | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
product | 6-Bromo-3-(3-hydroxy-propionyl)-3H-quinazolin-4-one | 1.1 g, Yield: 74.7% | BrC=1C=C2C(N(C=NC2=CC1)C(CCO)=O)=O | C11H9BrN2O3
